US05932571
Combine 1-(t-butoxycarbonyl)-4-(1-(2-(t-butyldimethylsilyloxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (4.22 g, 8.88 mmol), and methanol (60 mL). Add ammonium fluoride (1.97 g, 53.3 mmol). Heat to reflux. After 2 hours, cool the reaction mixture and partition between dichloromethane (300 mL) and a saturated aqueous solution of sodium bicarbonate (200 mL). Separate the layers and extract the organic layer three times with water and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give 1-(t-butoxycarbonyl)-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.32 (silica gel, ethyl acetate).

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-(t-butyldimethylsilyloxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 8.88 mmol, 4.22 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO[Si](C)(C)C(C)(C)C)C=CC=C2 | C25H42N4O3Si
reactant | methanol | 60 mL | CO | CH4O
reactant | ammonium fluoride | 53.3 mmol, 1.97 g | [F-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(t-butoxycarbonyl)-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO)C=CC=C2 | C19H28N4O3
